### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraphs): various path and edge lemmas

### PR DESCRIPTION
**Pull request by pimotte**
Adds a number of miscellaneous lemmas, mostly on paths and edges, in preparation for Tutte's theorem.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

[Zulip thread on Tutte's](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Tutte's.20theorem)
[Context](https://github.com/pimotte/TutteLean/blob/43501417b0aa127b13efdea0473cb91de000cf21/TutteLean/Part2.lean#L77) (Lemma's with "In path_edge" as a comment are in this PR, possibly slightly modified).

I acknowledge this is a little bit of a hodgepodge of results, if there's any that look funky or are perhaps not as useful as I think they are, I'm happy to cut them out and include them in the PR where they are used.

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 1]
```diff
@@ -185,6 +189,12 @@ theorem toSubgraph_rotate [DecidableEq V] (c : G.Walk v v) (h : u ∈ c.support)
 theorem toSubgraph_map (f : G →g G') (p : G.Walk u v) :
     (p.map f).toSubgraph = p.toSubgraph.map f := by induction p <;> simp [*, Subgraph.map_sup]
 
+lemma adj_toSubgraph_mapLe {G' : SimpleGraph V} {w x : V} (p : G.Walk u v) (h : G ≤ G') :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:192]:
```suggestion
lemma adj_toSubgraph_mapLe {G' : SimpleGraph V} {w x : V} {p : G.Walk u v} (h : G ≤ G') :
```

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 2]
```diff
@@ -272,6 +272,10 @@ def mapSpanningSubgraphs {G G' : SimpleGraph V} (h : G ≤ G') : G →g G' where
   toFun x := x
   map_rel' ha := h ha
 
+lemma mapSpanningSubgraphs_inj {G G' : SimpleGraph V} (h : G ≤ G') :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean:275]:
```suggestion
lemma mapSpanningSubgraphs_injective {G G' : SimpleGraph V} (h : G ≤ G') :
```
and can you make `_inj` be the `_ = _ \iff _ = _` lemma?

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 3]
```diff
@@ -89,6 +90,12 @@ lemma IsMatching.map_ofLE (h : M.IsMatching) (hGG' : G ≤ G') :
   use w
   simpa using hv' ▸ hw
 
+lemma IsMatching.not_adj_of_ne {M : Subgraph G} {u v w : V} (hM : M.IsMatching) (huv : v ≠ w)
+    (hadj : M.Adj u v) : ¬M.Adj u w := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:94]: Can we have the other side version of that? And maybe rename to
```suggestion
lemma IsMatching.not_adj_left_of_ne {M : Subgraph G} {u v w : V} (hM : M.IsMatching) (huv : v ≠ w)
    (hadj : M.Adj u v) : ¬M.Adj u w := by
```

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean [hunk 4]
```diff
@@ -148,6 +148,11 @@ def edge : SimpleGraph V := fromEdgeSet {s(s, t)}
 lemma edge_adj (v w : V) : (edge s t).Adj v w ↔ (v = s ∧ w = t ∨ v = t ∧ w = s) ∧ v ≠ w := by
   rw [edge, fromEdgeSet_adj, Set.mem_singleton_iff, Sym2.eq_iff]
 
+lemma edge_adj_iff {v w : V} : (edge s t).Adj v w ↔ (s(s, t) = s(v, w) ∧ (v ≠ w)) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Operations.lean:151]:
```suggestion
lemma adj_edge {v w : V} : (edge s t).Adj v w ↔ s(s, t) = s(v, w) ∧ v ≠ w := by
```

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean [hunk 5]
```diff
@@ -175,6 +180,15 @@ lemma sup_edge_of_adj (h : G.Adj s t) : G ⊔ edge s t = G := by
   rwa [sup_eq_left, ← edgeSet_subset_edgeSet, edge_edgeSet_of_ne h.ne, Set.singleton_subset_iff,
     mem_edgeSet]
 
+lemma disjoint_edge {u v : V} (h : u ≠ v) : Disjoint G (edge u v) ↔ ¬G.Adj u v := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Operations.lean:183]: Is this not true for `u = v`?

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean (hunk 3 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Matching.lean]: Done:)

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean (hunk 5 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Operations.lean]: Yep, it is, fixed:)

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 6]
```diff
@@ -89,6 +90,16 @@ lemma IsMatching.map_ofLE (h : M.IsMatching) (hGG' : G ≤ G') :
   use w
   simpa using hv' ▸ hw
 
+lemma IsMatching.not_adj_left_of_ne {M : Subgraph G} {u v w : V} (hM : M.IsMatching) (huv : v ≠ w)
+    (hadj : M.Adj u v) : ¬M.Adj u w := by
+  intro hadj'
+  obtain ⟨x, hx⟩ := hM (M.edge_vert hadj)
+  exact huv (hx.2 _ hadj ▸ (hx.2 _ hadj').symm)
+
+lemma IsMatching.not_adj_rigth_of_ne {M : Subgraph G} {u v w : V} (hM : M.IsMatching) (huw : u ≠ w)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:99]:
```suggestion
lemma IsMatching.not_adj_right_of_ne {M : Subgraph G} {u v w : V} (hM : M.IsMatching) (huw : u ≠ w)
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by TwoFX — COMMENTED** [review]
bors r+
